US04855292
To 1-cyclopropyl-7-[3-(N-ethylacetamido)methyl-1-pyrrolidinyl]-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (0.22 g) is added 5% aqueous sodium hydroxide (10 ml), and the mixture is refluxed for 24 hours. After cooling, the insoluble materials are filtered off, and the filtrate is acidified with conc. hydrochloric acid. The mixture is extracted with dichloromethane, and the aqueous layer is made alkaline with aqueous sodium hydroxide, and thereto is added t-butoxycarboxylic anhydride (200 mg). The mixture is stirred at room temperature for 30 minutes. The reaction mixture is acidified with 10% hydrochloric acid and is extracted with dichloromethane. After removing the solvent by concentration, to the resulting residue are added 10% hydrochloric acid (5 ml) and methanol (10 ml), and the mixture is heated at 70° C. for 30 minutes. After concentrating, the resulting residue is recrystallized from methanol-acetonitrile to give 1-cyclopropyl-7-(3-ethylaminomethyl-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (30 mg), as yellow crystals, m.p. 267°-271° C.

reactant | 1-cyclopropyl-7-[3-(N-ethylacetamido)methyl-1-pyrrolidinyl]-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 0.22 g | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(CC1)CN(C(C)=O)CC)F)=O)C(=O)O
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 1-cyclopropyl-7-(3-ethylaminomethyl-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 30 mg | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(CC1)CNCC)F)=O)C(=O)O | InChI=1S/C21H26FN3O3.ClH/c1-3-23-9-13-6-7-24(10-13)19-12(2)18-15(8-17(19)22)20(26)16(21(27)28)11-25(18)14-4-5-14;/h8,11,13-14,23H,3-7,9-10H2,1-2H3,(H,27,28);1H
